US06136823
Synthesis of 1-(6-Amino-3, 5-difluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-7-(pyrrolidin-3-yl)amino-1,4-dihydroquinoline-3-carboxylic Acid
1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (200 mg), 3-amino-1-benzylpyrrolidine (97 mg) and triethylamine (160 mg) were added to pyridine (600 mg), and the mixture was stirred for 26 hours at room temperature and f or 15 hours at 60° C. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (3 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Acetic acid (2 ml) and 10% palladium-carbon (25 mg) were added to the resultant residue to conduct hydrogenation for 20 hours at 45° C. and for 21 hours at room temperature. After the catalyst was separated by filtration and washed with acetic acid, the filtrate and washings were concentrated under reduced pressure. A process of adding ethanol (3 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Ethanol (2 ml) was added to the resultant residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (115 mg) as a pale brown powder.

reactant | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
reactant | 3-amino-1-benzylpyrrolidine | 97 mg | NC1CN(CC1)CC1=CC=CC=C1 | C11H16N2
reactant | triethylamine | 160 mg | C(C)N(CC)CC | C6H15N
solvent | pyridine | 600 mg | N1=CC=CC=C1 | C5H5N
product | 1-(6-Amino-3, 5-difluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-7-(pyrrolidin-3-yl)amino-1,4-dihydroquinoline-3-carboxylic Acid | 115 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC1CNCC1)F)=O)C(=O)O)F)F | C19H15ClF3N5O3
